US07091214B2
4—Chloro-3-nitro-7-phenylquinoline (5.3 g, 18.8 mmol) and 3-methylsulfanyl-propylamine (2.17 g, 20.6 mmol) were combined and treated according to the general procedure described in Part E of Example 1. Recrystallization from isopropanol afforded 6.2 g of (3-methylsulfanylpropyl)-(3-nitro-7-phenylquinolin-4-yl)amine as gold plates.

reactant | 4—Chloro-3-nitro-7-phenylquinoline | 18.8 mmol, 5.3 g | ClC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-] | C15H9ClN2O2
reactant | 3-methylsulfanyl-propylamine | 20.6 mmol, 2.17 g | CSCCCN | C4H11NS
product | (3-methylsulfanylpropyl)-(3-nitro-7-phenylquinolin-4-yl)amine | 6.2 g | CSCCCNC1=C(C=NC2=CC(=CC=C12)C1=CC=CC=C1)[N+](=O)[O-] | C19H19N3O2S
